US09145354B2
Step 3 A solution of [3-(1-bromo-propyl)-6-chloro-2-fluoro-phenyl]-phenyl-methanone (50 mg; 0.14 mmol) and 2-methyl-2-aminopropanol (30 μl; 2 equiv.) in DMF (1 ml) was stirred at room temperature for 72 hours then partitioned between Et2O and brine. The Et2O later was separated, dried (Na2SO4), filtered and evaporated. The crude material was purified by flash column chromatography using gradient elution from 0-10% MeOH/DCM. Product containing fractions were combined, treated with saturated HCl/EtOAc then evaporated. The residue was triturated with Et2O, the solid collected by filtration, washed with Et2O and sucked dry to give 55 mg of 2-{[1-(3-benzoyl-4-chloro-2-fluorophenyl)-propyl]amino}-2-methylpropan-1-ol as a white solid.

reactant | [3-(1-bromo-propyl)-6-chloro-2-fluoro-phenyl]-phenyl-methanone | 0.14 mmol, 50 mg | BrC(CC)C=1C(=C(C(=CC1)Cl)C(=O)C1=CC=CC=C1)F | C16H13BrClFO
reactant | 2-methyl-2-aminopropanol | 30 μl, 2 equiv. | CC(CO)(C)N | C4H11NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-{[1-(3-benzoyl-4-chloro-2-fluorophenyl)-propyl]amino}-2-methylpropan-1-ol | 55 mg | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1Cl)C(CC)NC(CO)(C)C)F | C20H23ClFNO2
